US05624937
1-[4-(7-Trifluoromethyl-4-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
4-(4-aminophenylthio)-7-trifluoromethylquinoline (0.01 mole, 3.2 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (0.01 mole, 2.4 g) were reacted according to procedure C to yield the title compound 3.5 g, 63%. Mass Spec (FD) 557. Calculated for C24H14ClF6N3S2 : C, 51.66; H, 2.53; N, 7.53. Found: C, 51.92; H, 2.53; N, 7.46.

reactant | 4-(4-aminophenylthio)-7-trifluoromethylquinoline | 0.01 mole, 3.2 g | NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C16H11F3N2S
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 0.01 mole, 2.4 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(7-Trifluoromethyl-4-quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 3.5 g, 63% | FC(C1=CC=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F)(F)F | C24H14ClF6N3S2
